US04957981
2.37 g (=15.3 mmoles) of hexahydrophthalic anhydride;
5.10 g of a 50 (wt) % benzoyl peroxide solution in dicyclohexyl phthalate;

reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | dicyclohexyl phthalate | C(C=1C(C(=O)OC2CCCCC2)=CC=CC1)(=O)OC1CCCCC1 | C20H26O4
product | hexahydrophthalic anhydride | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
